US08710284B2
b) Synthesis of 9-(phenyl)-10-(benzo[c]phenanthren-5-yl)anthracene
913 mg (3 mmol) of tri-o-tolylphosphine and then 112 mg (0.5 mmol) of palladium(II) acetate are added to a vigorously stirred suspension of 16.7 g (50 mmol) of 9-bromo-10-(phenyl)anthracene, 14.9 g (55 mmol) of benzo-[c]phenanthrene-5-boronic acid and 25.5 g (120 mmol) of tripotassium phosphate in a mixture of 300 ml of toluene, 100 ml of dioxane and 400 ml of water, and the mixture is subsequently heated under reflux for 16 h. After the mixture has been cooled, the precipitated solid is filtered off with suction, washed three times with 50 ml of toluene, three times with 50 ml of ethanol:water (1:1, v:v) and three times with 100 ml of ethanol and recrystallised three times from DMF (about 7 ml/g). Yield: 16.0 g (34 mmol), 67.8%, purity 99.9% (HPLC).

reactant | tri-o-tolylphosphine | 3 mmol, 913 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 9-bromo-10-(phenyl)anthracene | 50 mmol, 16.7 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C20H13Br
reactant | benzo-[c]phenanthrene-5-boronic acid | 55 mmol, 14.9 g | C1=CC=CC=2C(=CC=3C=CC=4C=CC=CC4C3C21)B(O)O | C18H13BO2
reactant | tripotassium phosphate | 120 mmol, 25.5 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.5 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 400 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 9-(phenyl)-10-(benzo[c]phenanthren-5-yl)anthracene | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=2C=CC=3C=CC=CC3C2C2=C1C=CC=C2 | C38H24
